US04916152
To a solution of (2S,4R)-2-[(Z)-5-carboxy-1-pentenyl]-1-(4-chlorophenylsulfonyl)-4-(4-chlorophenylsulfonylamino)pyrrolidine (547 mg), benzenesulfonamide (157 mg) and 4-dimethylaminopyridine (122 mg) in dichloromethane (10 ml) was added N,N'-dicyclohexylcarbodiimide (206 mg) and the mixture was stirred at room temperature overnight. After removal of the insoluble material by filtration, the filtrate was evaporated in vacuo and the residue was chromatographed on silica gel column with a mixture of chloroform and methanol (40:1) as an eluent to give (2S,4R)-1-(4-chlorophenylsulfonyl)-4-(4-chlorophenylsulfonylamino)-2-[(Z)-5-{N-(phenylsulfonyl)carbamoyl}-1-pentenyl]pyrrolidine (478 mg).

reactant | (2S,4R)-2-[(Z)-5-carboxy-1-pentenyl]-1-(4-chlorophenylsulfonyl)-4-(4-chlorophenylsulfonylamino)pyrrolidine | 547 mg | C(=O)(O)CCC\C=C/[C@H]1N(C[C@@H](C1)NS(=O)(=O)C1=CC=C(C=C1)Cl)S(=O)(=O)C1=CC=C(C=C1)Cl | C22H24Cl2N2O6S2
reactant | benzenesulfonamide | 157 mg | C1(=CC=CC=C1)S(=O)(=O)N | C6H7NO2S
reactant | N,N'-dicyclohexylcarbodiimide | 206 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
catalyst | 4-dimethylaminopyridine | 122 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (2S,4R)-1-(4-chlorophenylsulfonyl)-4-(4-chlorophenylsulfonylamino)-2-[(Z)-5-{N-(phenylsulfonyl)carbamoyl}-1-pentenyl]pyrrolidine | 478 mg | ClC1=CC=C(C=C1)S(=O)(=O)N1[C@@H](C[C@H](C1)NS(=O)(=O)C1=CC=C(C=C1)Cl)\C=C/CCCC(NS(=O)(=O)C1=CC=CC=C1)=O | C28H29Cl2N3O7S3
